US09415047B2
6-chloro-1H-benzimidazole (15.2 g, 0.10 mol) was dissolved into 200 ml of 20% wt. sodium hydroxide, 4-chlorobromobutane (34.3 g, 0.20 mol) and tetrabutyl ammonium bromide (1.0 g) were added, and mixed for 5 min. The mixture was heated to 60° C., stirred to react for 2 hours. Post treatment was performed based on common method one for synthesis. Oily products were separated and purified by chromatography with neutral Al2O3 to produce 15.1 g of 1-(4-chlorobutyl)-6-chloro-1H-benzimidazole, with a yield of 62.3%.

reactant | 6-chloro-1H-benzimidazole | 0.10 mol, 15.2 g | ClC=1C=CC2=C(NC=N2)C1 | C7H5ClN2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobromobutane | 0.20 mol, 34.3 g | ClCCCCBr | C4H8BrCl
catalyst | tetrabutyl ammonium bromide | 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-chlorobutyl)-6-chloro-1H-benzimidazole | 15.1 g, yield of 62.3% | ClCCCCN1C=NC2=C1C=C(C=C2)Cl | C11H12Cl2N2
